* LM358 generic feedback, dual pinout and rail translation; engineering criteria
* onsemi LM358/D Rev.36, Sep 2024. See TEST_README.md for provenance.
* Validated with QSPICE/QPOST on 2026-09-19; see TEST_RESULTS.md.
.step temp list -35 0 25 60 70
.lib ../LM358.txt
V_ACC Acc 0 5
V_AEE Aee 0 0
V_AP Ap Aee PWL(0 1 20u 1 20.1u 2 60u 2 60.1u 1 100u 1)
V_AQ Aq Aee 1.5
X_A Aoa Aoa Ap Aee Aq Aob Aob Acc LM358_DUAL
R_AA Aoa Aee 10k
R_AB Aob Aee 10k
V_BCC Bcc 0 7
V_BEE Bee 0 2
V_BP Bp Bee PWL(0 1 20u 1 20.1u 2 60u 2 60.1u 1 100u 1)
V_BQ Bq Bee 1.5
X_B Boa Boa Bp Bee Bq Bob Bob Bcc LM358_DUAL
R_BA Boa Bee 10k
R_BB Bob Bee 10k
B_SHIFT shift 0 V={abs(V(Boa,Bee)-V(Aoa,Aee))}
B_AERR aerr 0 V={abs(V(Aoa,Ap))}
B_BERR berr 0 V={abs(V(Aob,Aq))}
B_TEMP et 0 V={temp}
V_P5 p5 0 5
V_N5 n5 0 -5
V_IN invin 0 PWL(0 -1 20u -1 20.1u 1 60u 1 60.1u -1 100u -1)
X_INV 0 invm p5 n5 invout LM358
R_IN invin invm 10k
R_FB invout invm 10k
R_IL invout 0 10k
B_IERR ierr 0 V={abs(V(invout)+V(invin))}
.tran 0 100u 0 20n
.options reltol=1e-5 abstol=1e-12 vntol=1e-8 gmin=1e-12
.save V(aerr) V(berr) V(et) V(ierr) V(shift)
.meas TRAN RAIL_TRANSLATION MAX V(shift)
.meas TRAN FOLLOWER_A_HIGH MAX V(aerr) FROM=45u TO=55u
.meas TRAN FOLLOWER_A_LOW MAX V(aerr) FROM=85u TO=95u
.meas TRAN QUIET_CHANNEL_B_HIGH MAX V(berr) FROM=45u TO=55u
.meas TRAN QUIET_CHANNEL_B_LOW MAX V(berr) FROM=85u TO=95u
.meas TRAN INVERTING_GAIN_HIGH MAX V(ierr) FROM=45u TO=55u
.meas TRAN INVERTING_GAIN_LOW MAX V(ierr) FROM=85u TO=95u
.meas TRAN ACTUAL_TEMP AVG V(et) FROM=85u TO=95u
.end
