* LM358 Fig.3 large-signal follower; only 25 C slew targets are datasheet-derived
* onsemi LM358/D Rev.36, Sep 2024. See TEST_README.md for provenance.
* Validated with QSPICE/QPOST on 2026-09-19; see TEST_RESULTS.md.
.step temp list 0 25 60 70
.lib ../LM358.txt
V_CC cc 0 15
V_IN inp 0 PWL(0 2 10u 2 10.01u 4 50u 4 50.01u 2 100u 2)
X_DUT inp out cc 0 out LM358
R_LOAD out 0 2k
B_ERR err 0 V={abs(V(out,inp))}
B_ET et 0 V={temp}
.tran 0 100u 0 10n
.options reltol=1e-5 abstol=1e-12 vntol=1e-8 gmin=1e-12
.save V(err) V(et) V(out)
.meas TRAN RISE_1V_TIME TRIG V(out)=2.5 RISE=1 TD=10u TARG V(out)=3.5 RISE=1 TD=10u
.meas TRAN FALL_1V_TIME TRIG V(out)=3.5 FALL=1 TD=50u TARG V(out)=2.5 FALL=1 TD=50u
.meas TRAN HIGH_SETTLED MAX V(err) FROM=40u TO=45u
.meas TRAN LOW_SETTLED MAX V(err) FROM=90u TO=95u
.meas TRAN OUTPUT_LOWER_BOUND MIN V(out)
.meas TRAN OUTPUT_UPPER_BOUND MAX V(out)
.meas TRAN ACTUAL_TEMP AVG V(et) FROM=90u TO=95u
.end
