* LM358 Fig.7, 30 V, CL=50 pF; graphical typical shape only
* onsemi LM358/D Rev.36, Sep 2024. See TEST_README.md for provenance.
* Validated with QSPICE/QPOST on 2026-09-19; see TEST_RESULTS.md.
.temp 25
.lib ../LM358.txt
V_CC cc 0 30
V_IN inp 0 PWL(0 380m 1u 380m 1.001u 280m 6u 280m 6.001u 380m 10u 380m)
X_DUT inp out cc 0 out LM358
C_LOAD out 0 50p
B_ERR err 0 V={abs(V(out,inp))}
.tran 0 10u 0 2n
.options reltol=1e-5 abstol=1e-12 vntol=1e-8 gmin=1e-12
.save V(err) V(out)
.meas TRAN FALL_UNDERSHOOT MIN V(out) FROM=1u TO=3u
.meas TRAN RISE_OVERSHOOT MAX V(out) FROM=6u TO=8u
.meas TRAN SETTLED_LOW MAX V(err) FROM=4u TO=5u
.meas TRAN SETTLED_HIGH MAX V(err) FROM=9u TO=10u
.end
