* LM358 dual package IQ and loaded supply-current accounting
* onsemi LM358/D Rev.36, Sep 2024. See TEST_README.md for provenance.
* Validated with QSPICE/QPOST on 2026-09-19; see TEST_RESULTS.md.
.step temp list 0 25 60 70
.lib ../LM358.txt
V_Q5CC Q5cc 0 5
V_Q5ONE Q5one 0 1
X_Q5 Q5a Q5one 0 0 0 Q5one Q5b Q5cc LM358_DUAL
B_Q5_iq Q5_iq 0 V={-I(V_Q5CC)}
V_Q30CC Q30cc 0 30
V_Q30ONE Q30one 0 1
X_Q30 Q30a Q30one 0 0 0 Q30one Q30b Q30cc LM358_DUAL
B_Q30_iq Q30_iq 0 V={-I(V_Q30CC)}
V_CC0 cc0 0 5
V_CC1 cc1 0 5
V_REF ref 0 2
X_IDLE ref idle cc0 0 idle LM358
X_LOAD ref loaded cc1 0 loaded LM358
R_LOAD loaded 0 1k
B_accounting accounting 0 V={abs(-I(V_CC1)+I(V_CC0)-V(loaded)/1000)}
B_actual_temp actual_temp 0 V={temp}
V_SCAN scan 0 0
.dc V_SCAN 0 1 1
.options reltol=1e-5 abstol=1e-12 vntol=1e-8 gmin=1e-12
.save V(Q30_iq) V(Q30a) V(Q30b) V(Q5_iq) V(Q5a) V(Q5b) V(accounting) V(actual_temp)
.meas DC Q5_IQ_TYP AVG V(Q5_iq)
.meas DC Q5_IQ_MAX AVG V(Q5_iq)
.meas DC Q5_OUTA_LOW AVG V(Q5a)
.meas DC Q5_OUTB_LOW AVG V(Q5b)
.meas DC Q30_IQ_TYP AVG V(Q30_iq)
.meas DC Q30_IQ_MAX AVG V(Q30_iq)
.meas DC Q30_OUTA_LOW AVG V(Q30a)
.meas DC Q30_OUTB_LOW AVG V(Q30b)
.meas DC LOAD_CURRENT_ACCOUNTING AVG V(accounting)
.meas DC ACTUAL_TEMP AVG V(actual_temp)
.end
